US07214802B2
To a suspension of 85 mg (0.261 mmol) of 3-(2-mercapto-4-pyridin-3-yl-imidazol-1-yl)-4-methyl-benzoic acid methyl ester in 1.8 mL of water was added 0.68 mL of concentrated HNO3 and 2 mg of NaNO2. After 2 h, the mixture was cooled to 0° C. and 4N NaOH was added until the pH reached about 10. The mixture was stirred for 30 min then HOAc was added until the pH reached about 6. The resulting precipitate was filtered, washed with water and dried to provide 16 mg (0.057 mmol; 22%) of 4-methyl-3-(4-pyridin-3-yl-imidazol-1-yl)-benzoic acid.

reactant | 3-(2-mercapto-4-pyridin-3-yl-imidazol-1-yl)-4-methyl-benzoic acid methyl ester | 0.261 mmol, 85 mg | COC(C1=CC(=C(C=C1)C)N1C(=NC(=C1)C=1C=NC=CC1)S)=O | C17H15N3O2S
reactant | HNO3 | 0.68 mL | [N+](=O)(O)[O-] | HNO3
reactant | NaNO2 | 2 mg | N(=O)[O-].[Na+]
reactant | NaOH | 4N | [OH-].[Na+]
solvent | water | 1.8 mL | O | H2O
solvent | HOAc | CC(=O)O | C2H4O2
product | 4-methyl-3-(4-pyridin-3-yl-imidazol-1-yl)-benzoic acid | 0.057 mmol, 16 mg, 22% | CC1=C(C=C(C(=O)O)C=C1)N1C=NC(=C1)C=1C=NC=CC1 | C16H13N3O2
